US07342027B2
Preparation of 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-trifluoromethylphenyl)piperidin-3-one
In accordance with the same procedure as in Example 85, except that 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride was used instead of 4-[N-[1-[N-(furan-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride and 1-bromo-4-fluoro-2-trifluoromethylbenzene was used instead of 1-bromo-4-fluoro-2-thiomethoxybenzene in Step 1 thereof, 137 mg of the titled compound was prepared.

reactant | 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride | Cl.FC1=CC=C(C(=O)NC2(CCCCC2)C(=O)NC2C(CNCC2)O)C=C1
reactant | 1-bromo-4-fluoro-2-trifluoromethylbenzene | BrC1=C(C=C(C=C1)F)C(F)(F)F | C7H3BrF4
product | 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-trifluoromethylphenyl)piperidin-3-one | 137 mg | FC1=CC=C(C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=C(C=C2)F)C(F)(F)F)=O)C=C1 | C26H26F5N3O3
